US06762321B2
8.8 g (13.6 mmol) of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acetamide, 8.9 g (51.1 mmol) of t-butoxybis (dimethylamino)methane and 100 ml of N,N-dimethylformamide were mixed and stirred at 100° C. for 6 hours. Water was added to the reaction mixture, which was followed by extracted with ethyl acetate, washed with saturated brine twice, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. To the residue, 50 ml of 5% hydrochloric acid and 100 ml of tetrahydrofuran were added and stirred at room temperature for 2 hours. Water was added to the reaction mixture, which was followed by extracted with ethyl acetate twice, washed with saturated brine twice, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel chromatography (eluent, hexane:ethyl acetate=2:1) and dried to give 4.20 g of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide.

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acetamide | 13.6 mmol, 8.8 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(CC1=CC=2CCCCC2C=C1)=O)OC | C28H31NO3
reactant | t-butoxybis (dimethylamino)methane | 51.1 mmol, 8.9 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 4.20 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=CO)C1=CC=2CCCCC2C=C1)=O)OC | C29H31NO4
